US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-N-indan-1-yl-2-phenyl-acetamide:
To a solution of 1-[(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-phenyl-acetic acid (100 mg, 0.209 mmol) in 5 ml of dry DMF, were added PyBOP (109 mg, 0.209 mmol), 1-aminoindane (32.3 mg, 0.19 mmol) and dropwise diisopropylethylamine (Hünig's base). (75 μl, 0.437 mmol). The mixture reaction was stirred at RT under argon for 20 h. The mixture was then dissolved in CH2Cl2 and washed with water. The aqueous phase was extracted twice with CH2Cl2, the combined organic extracts were dried over MgSO4, filtered and concentrated to give a crude brown residue. Flash chromatography (AcOEt) gave 72 mg (64%) of the title compound as a pale brown oil.

reactant | 1-[(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-phenyl-acetic acid | 0.209 mmol, 100 mg | COC=1C=C(CC2C(CCC3=CC(=C(C=C23)OC)OC)C2(CC=CC=C2)CC(=O)O)C=CC1OC | C29H34O6
reactant | PyBOP | 0.209 mmol, 109 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 1-aminoindane | 0.19 mmol, 32.3 mg | NC1CCC2=CC=CC=C12 | C9H11N
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl]-N-indan-1-yl-2-phenyl-acetamide | 72 mg, 64% | COC=1C=C(CC2C(CCC3=CC(=C(C=C23)OC)OC)C(C(=O)NC2CCC3=CC=CC=C23)C2=CC=CC=C2)C=CC1OC | C38H41NO5
